US06765012B2
Phenylaminomethylene-1,3-dihydro-indol-2-one
E & Z 3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one is reacted with 0.022 gms. of aniline by refluxing in tetrahydrofuran (1.2 mL) for 12 hours to yield a quantitative amount (39 mg) of the named compound as a solid following concentration in vacuo, dilution with isopropanol and filtration.

reactant | 3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
product | Phenylaminomethylene-1,3-dihydro-indol-2-one | C1(=CC=CC=C1)NC=C1C(NC2=CC=CC=C12)=O | C15H12N2O
